US05576318
1-(4-Chlorobutyl)-3-n-hexyl-2,3-dihydro-1H-benzimidazol-2-one
The compound may be prepared according to the procedure described in J. Het. Chem. 18, 85 (1981) from 3-n-hexyl-2,3-dihydro-1H-benzimidazol-2-one and 1,4-dichlorobutane.

reactant | 3-n-hexyl-2,3-dihydro-1H-benzimidazol-2-one | C(CCCCC)N1C(NC2=C1C=CC=C2)=O | C13H18N2O
reactant | 1,4-dichlorobutane | ClCCCCCl | C4H8Cl2
product | 1-(4-Chlorobutyl)-3-n-hexyl-2,3-dihydro-1H-benzimidazol-2-one | ClCCCCN1C(N(C2=C1C=CC=C2)CCCCCC)=O | C17H25ClN2O
